US06538148B2
Step B: Preparation of (1 -Cyanocyclohexyl)acetic acid t-butyl ester
Added 5% Pd/C, 50% H2O catalyst (94.0 mg, 22.1 μmol) to a solution of (1-cyanocyclohexa-2,5-dienyl)acetic acid t-butyl ester (0.50 g, 2.3 mmol) in MeOH (10 mL). After shaking the reaction mixture under 20 psi H2 at room temperature for 18.5 hours, the pressure was slowly released. The reaction was filtered and concentrated under reduced pressure. Flash chromatography (SiO2, 1:3 hexane:CH2Cl2-100% CH2Cl2) afforded 0.29 g (56%) of product as an oil.

reactant | (1-cyanocyclohexa-2,5-dienyl)acetic acid t-butyl ester | 2.3 mmol, 0.50 g | C(C)(C)(C)OC(CC1(C=CCC=C1)C#N)=O | C13H17NO2
catalyst | H2O | 22.1 μmol, 94.0 mg | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | [Pd] | Pd
product | (1 -Cyanocyclohexyl)acetic acid t-butyl ester | 0.29 g, 56% | C(C)(C)(C)OC(CC1(CCCCC1)C#N)=O | C13H21NO2
